### PR TITLE
[Merged by Bors] - feat(Data/Nat/Factorization/Defs): more theorems about `f.prod (· ^ ·)`

### PR DESCRIPTION
**Pull request by SnirBroshi**
---
Follow-up to [this comment](https://github.com/leanprover-community/mathlib4/pull/34554/files#r2946827947) from #34554

- [x] depends on: #34554

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Factorization/Defs.lean [hunk 1]
```diff
@@ -218,17 +218,47 @@ lemma factorization_minFac_ne_zero {n : ℕ} (hn : 1 < n) :
...
   rw [Finsupp.prod, factorization_prod (pow_ne_zero _ <| hf · · |>.ne_zero),
     sum_congr rfl (hf · · |>.factorization_pow)]
   exact sum_single f
 
+theorem eq_factorization_iff (hn : n ≠ 0) (hf : ∀ p ∈ f.support, Prime p) :
+    f = n.factorization ↔ f.prod (· ^ ·) = n := by
+  constructor <;> rintro rfl
+  exacts [factorization_prod_pow_eq_self hn, prod_pow_factorization_eq_self hf |>.symm]
+
+theorem prod_pow_factorization_eq_self_of_le_factorization (hf : f ≤ n.factorization) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Factorization/Defs.lean]: Like the preexisting `prod_pow_factorization_eq_self`, this is misnamed. It should be `factorization_prod_pow_eq...`. You don't need to rename the other one in this PR, but maybe add a todo comment.

**Review by Ruben-VandeVelde — APPROVED** [review]
Looks good, modulo a naming issue.

maintainer delegate

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors r+

File: Mathlib/Data/Nat/Factorization/Defs.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/Data/Nat/Factorization/Defs.lean]: Technically the correct form is `prod_factorization_pow...` since `Finsupp.prod` takes the `Finsupp` argument first, right?
Edit: actually I got confused with the other existing theorem `factorization_prod_pow_eq_self`

**Comment by SnirBroshi** [comment]
bors merge
